US04039676
The starting material is prepared as follows: The solution of 20 g of 4-hydroxy-4-phenylpiperidine hydrochloride, 10 ml of acetone, 5.6 g of paraformaldehyde and 100 ml of nitromethane is refluxed for 12 hours. It is diluted with 500 ml of cyclohexane and the precipitate collected, to yield the 4-(4-hydroxy-4-phenylpiperidino)-2-butanone hydrochloride.

reactant | 4-hydroxy-4-phenylpiperidine hydrochloride | 20 g | Cl.OC1(CCNCC1)C1=CC=CC=C1
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | paraformaldehyde | 5.6 g | C=O | CH2O
reactant | nitromethane | 100 ml | [N+](=O)([O-])C | CH3NO2
solvent | cyclohexane | 500 ml | C1CCCCC1 | C6H12
product | 4-(4-hydroxy-4-phenylpiperidino)-2-butanone hydrochloride | Cl.OC1(CCN(CC1)CCC(C)=O)C1=CC=CC=C1 | InChI=1S/C15H21NO2.ClH/c1-13(17)7-10-16-11-8-15(18,9-12-16)14-5-3-2-4-6-14;/h2-6,18H,7-12H2,1H3;1H
